US09145392B2
Step 4: 4-[4-(4-Fluoro-3-methylphenyl)-1-(2-hydroxy-ethyl)-1H-imidazol-2-yl]-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 4-[4-bromo-1-(2-hydroxyethyl)-1H-imidazol-2-yl]-piperidine-1-carboxylic acid tert-butyl ester (1600.00 mg; 4.27 mmol; 1.00 eq.), 3-fluoro-4-methyl phenyl boronic acid (855.55 mg; 5.56 mmol; 1.30 eq.), palladium bis(tributylphosphine) (436.95 mg; 0.85 mmol; 0.20 eq.) and Cesium carbonate (4178.60 mg; 12.82 mmol; 3.00 eq.) in 1,4-Dioxane (10.0 mL) and water (1.50 mL) in the sealed vial was stirred at 70° C. for 5 hours. The crude was purified through flash chromatography (EtOAc in Hexanes 30% to 80%) to provide the title compound (1.2 g, 70%).

reactant | 4-[4-bromo-1-(2-hydroxyethyl)-1H-imidazol-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | 4.27 mmol, 1600.00 mg, 1.00 eq. | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1N(C=C(N1)Br)CCO | C15H24BrN3O3
reactant | 3-fluoro-4-methyl phenyl boronic acid | 5.56 mmol, 855.55 mg, 1.30 eq. | FC=1C=C(C=CC1C)B(O)O | C7H8BFO2
reactant | Cesium carbonate | 12.82 mmol, 4178.60 mg, 3.00 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-Dioxane | 10.0 mL | O1CCOCC1 | C4H8O2
solvent | water | 1.50 mL | O | H2O
catalyst | palladium bis(tributylphosphine) | 0.85 mmol, 436.95 mg, 0.20 eq. | C(CCC)P(CCCC)CCCC.C(CCC)P(CCCC)CCCC.[Pd]
product | 4-[4-(4-Fluoro-3-methylphenyl)-1-(2-hydroxy-ethyl)-1H-imidazol-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | 1.2 g, 70% | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C)CCO | C22H30FN3O3
